US06821972B2
N′-Hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinecarboximidamide
5-Cyano uracil (2.0 g, 14.6 mmol) was suspended in methanol (50 mL), then hydroxylamine hydrochloride (1.4 g, 20.0 mmol) and triethylamine (2.8 mL, 20.0 mmol) were added and the mixture was heated to reflux overnight. The mixture was cooled to room temperature, the solid was collected by filtration, washed with methanol and dried to give the title compound as a pale yellow solid (1.8 g).

reactant | 5-Cyano uracil | 14.6 mmol, 2.0 g | C(#N)C=1C(NC(NC1)=O)=O | C5H3N3O2
reactant | hydroxylamine hydrochloride | 20.0 mmol, 1.4 g | Cl.NO
reactant | triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
product | N′-Hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinecarboximidamide | 1.8 g | ON=C(N)C=1C(NC(NC1)=O)=O | C5H6N4O3
